US07947690B2
A mixture of 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperidin-4-ol and 4M HCl-dioxane solution was stirred at ambient temperature for 3.5 hours to yield 4-(3-hydroxypropyl)piperidin-4-ol hydrochloride.

reactant | 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperidin-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CCCO | C13H25NO4
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | 4-(3-hydroxypropyl)piperidin-4-ol hydrochloride | Cl.OCCCC1(CCNCC1)O | InChI=1S/C8H17NO2.ClH/c10-7-1-2-8(11)3-5-9-6-4-8;/h9-11H,1-7H2;1H
